US05591742
2-(2-Ethoxy-5-nitrophenyl)pyrido[3,2-d]pyrimidin-4(3H)-one
A stirred solution of 2-(2-ethoxyphenyl)-pyrido[3,2-d]pyrimidin-4(3H)-one (Preparation 10; 1.4 g, 0.0052 mol)in concentrated sulphuric acid (11 ml) at 0° C., was treated dropwise with concentrated nitric acid (0.4 ml). The reaction mixture was allowed to warm to ambient temperature, stirred for a further 18 hours, then added dropwise to ice/water (70 g). The resulting precipitate was collected by filtration, dried under vacuum and then crystallised from acetonitrile to give the title compound as a pale yellow solid (0.22 g, 86%), m.p. 251°-254° C. Found: C,57.69; H,3.87; N,17.94. C15H12N4O4 requires C,57.41; H,3.82; N,18.37%.

reactant | 2-(2-ethoxyphenyl)-pyrido[3,2-d]pyrimidin-4(3H)-one | 0.0052 mol, 1.4 g | C(C)OC1=C(C=CC=C1)C=1NC(C2=C(N1)C=CC=N2)=O | C15H13N3O2
reactant | nitric acid | 0.4 ml | [N+](=O)(O)[O-] | HNO3
solvent | sulphuric acid | 11 ml | S(O)(O)(=O)=O | H2O4S
product | 2-(2-Ethoxy-5-nitrophenyl)pyrido[3,2-d]pyrimidin-4(3H)-one | 0.22 g, 86% | C(C)OC1=C(C=C(C=C1)[N+](=O)[O-])C=1NC(C2=C(N1)C=CC=N2)=O | C15H12N4O4
